US08247576B2
5A. 2-(3-Bromo-phenyl)-1-phenyl-ethylamine
Benzonitrile (500 mg, 4.849 mmol) was added dropwise to a solution of 3-bromobenzylmagnesium bromide (0.275 M solution in diethyl ether, 21.1 ml, 5.818 mmol) under an atmosphere of nitrogen at room temperature. The reaction mixture was then heated to reflux for a period of 2 hours then allowed to cool. Lithium aluminium hydride (1.0 M in THF, 4.85 ml, 4.849 mmol) was then added cautiously and the reaction mixture was allowed to heat at reflux for a further 16 hours. Upon cooling, the reaction was quenched by cautious and dropwise addition of water (5 ml) and then partitioned between water (20 ml) and ethyl acetate (100 ml). The organic layer was separated, dried (MgSO4), filtered and concentrated. Purification by ion exchange chromatography afforded the desired compound (420 mg, 31%).

reactant | Benzonitrile | 4.849 mmol, 500 mg | C(C1=CC=CC=C1)#N | C7H5N
reactant | 3-bromobenzylmagnesium bromide | 5.818 mmol, 0.275 M, 21.1 ml | BrC=1C=C(C[Mg]Br)C=CC1
reactant | Lithium aluminium hydride | 4.849 mmol, 1.0 M, 4.85 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(3-Bromo-phenyl)-1-phenyl-ethylamine | 420 mg, 31% | BrC=1C=C(C=CC1)CC(C1=CC=CC=C1)N | C14H14BrN
